US08242104B2
A mixture of 4-iodo-1H-imidazole, Cs2CO3 in 2,2-dimethyl oxirane was stirred at 120° C. for 20 min under irradiation with microwave. The reaction mixture was concentrated, and purified to give 1-(4-iodo-1H-imidazol-1-yl)-2-methylpropan-2-ol (Yield=71%). LC-MS: m/z=266 [M+H+] 1H NMR (CDCl3, 400 MHz): δ7.36 (s, 1H), 7.06 (s, 1H), 3.84 (s, 2H), 1.22 (s, 6H).

reactant | 4-iodo-1H-imidazole | IC=1N=CNC1 | C3H3IN2
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2,2-dimethyl oxirane | CC1(OC1)C | C4H8O
product | 1-(4-iodo-1H-imidazol-1-yl)-2-methylpropan-2-ol | Yield=71% | IC=1N=CN(C1)CC(C)(O)C | C7H11IN2O
